US04515796
2-(3,5-Dimethoxy-2-naphthalenyl)imidazo[4,5-c]pyridine
A solution of 4.1 g. of 3,4-diaminopyridine and 8.7 g. of 3,5-dimethoxy-2-naphthoic acid in 250 ml. of phosphorous oxychloride was heated at reflux for 18 hours. The reaction was cooled and evaporated in vacuo. The solid was dissolved in 2N hydrochloric acid, cooled, and adjusted to pH 8. The resulting solid was recovered by filtration and chrom;atographed over silica gel to afford 4.4 g. of the desired title compound, m.p. 178°-180° C.

reactant | 3,4-diaminopyridine | NC=1C=NC=CC1N | C5H7N3
reactant | 3,5-dimethoxy-2-naphthoic acid | COC=1C(=CC2=CC=CC(=C2C1)OC)C(=O)O | C13H12O4
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(3,5-Dimethoxy-2-naphthalenyl)imidazo[4,5-c]pyridine | COC=1C(=CC2=CC=CC(=C2C1)OC)C=1NC2=C(C=NC=C2)N1 | C18H15N3O2
